US06130187
Preparation of 3-(4-chloro-2-ethyl-6-fluorobenzofuran-7-yl)-6-trifluoromethyluracil (Compound No. 187)
80 ml of N,N-dimethylformamide was added to 5.8 g (32 mmol) of ethyl 3-amino-4,4,4-trifluorocrotonate and 6.6 g (43 mmol) of 1,8-diazabicyclo[5.4.0]-7-undecene, and 9.6 g (29 mmol) of 4-chloro-2-ethyl-6-fluoro-7-phenoxycarbonylaminobenzofuran was gradually added thereto at room temperature. After stirring at 60° C. for 8 hours, the reaction solution was poured into a 10% hydrochloric acid aqueous solution and acidified, and then extracted with ethyl acetate. The organic layer was washed sequentially with water and a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. Then, the obtained residue was purified by silica gel column chromatography to obtain 4.8 g (yield: 44%) of the desired product as white crystals. Melting point: 154-155° C.

reactant | ethyl 3-amino-4,4,4-trifluorocrotonate | 32 mmol, 5.8 g | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 43 mmol, 6.6 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 4-chloro-2-ethyl-6-fluoro-7-phenoxycarbonylaminobenzofuran | 29 mmol, 9.6 g | ClC1=CC(=C(C2=C1C=C(O2)CC)NC(=O)OC2=CC=CC=C2)F | C17H13ClFNO3
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 3-(4-chloro-2-ethyl-6-fluorobenzofuran-7-yl)-6-trifluoromethyluracil | 4.8 g, yield: 44% | ClC1=CC(=C(C2=C1C=C(O2)CC)N2C(NC(=CC2=O)C(F)(F)F)=O)F | C15H9ClF4N2O3
